US05225564
Preparation of Methyl 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinate
Benzoyl chloride (42.1 mL, 0.363 mol) is added dropwise to a 0° C. solution of 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinic acid, methyl ester (50 g, 0.173 mol) and 4-dimethylaminopyridine (4.2 g, 0.0344 mol) in pyridine. The reaction mixture is stirred for 1 hour at 0° C. and 4 hours at room temperature. Concentration in vacuo gives a liquid that is dissolved into methylene chloride and washed sequentially with 2 normal hydrochloric acid and saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield a solid that upon trituration with ether gives the title compound as a white solid (46.2 g, 68%), mp 104°-106° C., identified by IR and NMR spectral analyses.

reactant | Benzoyl chloride | 0.363 mol, 42.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinic acid, methyl ester | 0.173 mol, 50 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=C(C=N1)C)C | C15H19N3O3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0344 mol, 4.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Methyl 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinate | 46.2 g, 68% | C(C1=CC=CC=C1)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=C(C=N1)C | C22H23N3O4
